US05780472
1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-hydroxy-4-methylphenyl)piperazine
Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)carbamate and 1-(2-hydroxy-4-methylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)C)C)OC)=O | C15H16N2O3
reactant | 1-(2-hydroxy-4-methylphenyl)piperazine | OC1=C(C=CC(=C1)C)N1CCNCC1 | C11H16N2O
product | 1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-hydroxy-4-methylphenyl)piperazine | yield: 77% | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C)O | C20H26N4O3
